US07576072B2
Step E: Preparation of 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid.
To a solution of i-Pr2NH (3.50 equivalents) in THF at 0° C. is added n-BuLi (3.50 equivalents, 2.5 M solution in hexanes). After stirring 15 minutes, the mixture is cooled to −78° C. 4-Bromo-2-fluorophenylamine (2.50 equivalents) is added. After vigorous stirring for 10 minutes, a mixture of the 6-chloro-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid (1.00 equivalent) in THF is added. The dry-ice bath is removed after 30 minutes, and the reaction mixture is stirred for 17 hours at room temperature. The reaction mixture is treated with a 10% aqueous HCl solution, extracted with EtOAc, dried (MgSO4), and concentrated. Trituration with methylene chloride give desired product.

reactant | i-Pr2NH | 3.50 equivalents | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 2.5 M, 3.50 equivalents | [Li]CCCC
reactant | 4-Bromo-2-fluorophenylamine | 2.50 equivalents | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
reactant | 6-chloro-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid | 1.00 equivalent | ClC=1C(=NC=2N(C1F)N=CC2)C(=O)O | C7H3ClFN3O2
solvent | THF | C1CCOC1 | C4H8O
product | 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid | BrC1=CC(=C(C=C1)NC=1C(=NC=2N(C1F)N=CC2)C(=O)O)F | C13H7BrF2N4O2
